US08709747B2
α-mannose Surface Grafting on Nanoparticles (DB103)
α-mannose phenylaminocyclobutenedione (250 mg; 0.37 mmol) was dissolved in a mixture of Ethanol/H2O (3/2) (10 mL) and triethyamine (400 μL) was added dropwise to the solution of APTS (Aminopropyltriethoxysilane) grafted nanoparticles DB060 (250 mg in 10 ml of EtOH). The mixture was stirred during 16 h. The nanoparticles were then centrifugated and washed with water and ethanol and dried under vacuum to afford 232 mg of grafted nanoparticles. The concentration of α-mannose phenylaminocyclobutenedione grafted on the surface of the DB103 nanoaprticle is 0.089 mmol/g.

reactant | α-mannose phenylaminocyclobutenedione | 0.37 mmol, 250 mg | C1(=CC=CC=C1)NC=1C(C(C1)=O)=O.O[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | APTS | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
solvent | Ethanol H2O | 10 mL | C(C)O.O
solvent | triethyamine | 400 μL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 10 ml | CCO | C2H6O
product | α-mannose | O[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
